US08426411B2
Step G: (cis)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)-N-(2,2,2-trifluoroethyl)pyrrolidine-1-carboxamide
To a solution of 2,2,2-trifluoroethanamine (0.080 g, 0.804 mmol) in DMF (3 mL) was added CDI (0.150 g, 0.926 mmol). The resulting solution was stirred at about 65° C. for about 2 h. 1-((cis)-4-ethylpyrrolidin-3-yl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine (0.250 g, 0.609 mmol) was added and the reaction continued stirring at about 65° C. for about 2 h. The reaction was cooled to about ambient temperature. The solvent was removed under reduced pressure. The crude material was purified by flash chromatography on silica gel eluting with a gradient of 0-10% MeOH in afford (cis)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)-N-(2,2,2-trifluoroethyl)pyrrolidine-1-carboxamide (0.306 g, 94%) as a brown residue: LC/MS (Table 1, Method a) Rt=2.19 min; MS m/z: 536 (M+H)+.

reactant | 2,2,2-trifluoroethanamine | 0.804 mmol, 0.080 g | FC(CN)(F)F | C2H4F3N
reactant | CDI | 0.926 mmol, 0.150 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-((cis)-4-ethylpyrrolidin-3-yl)-6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine | 0.609 mmol, 0.250 g | C(C)[C@@H]1[C@@H](CNC1)C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1 | C20H22N6O2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (cis)-3-ethyl-4-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)-N-(2,2,2-trifluoroethyl)pyrrolidine-1-carboxamide | C(C)[C@@H]1CN(C[C@@H]1C1=NN=C2N1C1=C(N=C2)N(C=C1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)NCC(F)(F)F | C23H24F3N7O3S
